US08476197B2
100 ml of dimethyl formamide (DMF) were cooled to 0° C. and POCl3 (35.47 g, 231 mmol, 3 eq.) added dropwise. The reaction was stirred 30 min at 0° C. and a solution of 2-chloro-3-acetyl-pyridine (12 g, 77.12 mmol, 1 eq.) in 15 ml of dimethyl formamide (DMF) was added. Once all added the reaction was warmed to 50° C. and stirred for 8 h. The mixture was cooled to 0° C. and hydroxylamine hydrochloride (21.43 g, 308 mmol, 4 eq.) was added by portions very carefully (exothermic). Once all added the reaction was stirred at room temperature for 2 h and quenched with water. The medium was basified until pH 2-3 was reached with 1N aqueous NaOH and extracted with ethylacetate. The organic layer was washed with brine and dried over MgSO4. Removal of all volatiles under reduced pressure afforded 3-chloro-3-(2-chloropyridin-3-yl)acrylonitrile (13.21 g, 81% yield) as a mixture of isomers which was used without further purification.

reactant | POCl3 | 231 mmol, 35.47 g, 3 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloro-3-acetyl-pyridine | 77.12 mmol, 12 g, 1 eq. | ClC1=NC=CC=C1C(C)=O | C7H6ClNO
reactant | hydroxylamine hydrochloride | 308 mmol, 21.43 g, 4 eq. | Cl.NO
reactant | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-chloro-3-(2-chloropyridin-3-yl)acrylonitrile | 13.21 g, 81% yield | ClC(=CC#N)C=1C(=NC=CC1)Cl | C8H4Cl2N2
